US04933453
3-(4-Bromobutyl)-5-methyl-4-thiazolidinone
To 12.35 g of 5-methyl-4-thiazolidinone placed in a 500 ml round bottom flask was added 210 ml of DMF and the mixture stirred for 3.5 h. An additional 30 ml of DMF was added and the mixture stirred for 10 minutes and thereafter 11.8 g of KOH was added all at once. The resultant solution was stirred for 0.5 h at room temperature and thereafter 38 ml of 1,4-dibromobutane was added rapidly. The mixture was stirred at room temperature overnight. After 24 hours of stirring at room temperature, the reaction mixture was poured into 600 ml of water and the resultant mixture extracted with EtOAc (2×175 ml). The combined EtOAc layers were washed successively with water (200 ml) and brine (150 ml), dried over MgSO4 and concentrated in vacuo to 49.68 g of oil. After removal of DMF by vacuum distillation, the residual oil was purified by flash chromotography (silica gel column) to obtain the desired product.

reactant | 5-methyl-4-thiazolidinone | 12.35 g | CC1C(NCS1)=O | C4H7NOS
reactant | DMF | 210 ml | CN(C)C=O | C3H7NO
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | KOH | 11.8 g | [OH-].[K+]
reactant | 1,4-dibromobutane | 38 ml | BrCCCCBr | C4H8Br2
solvent | water | 600 ml | O | H2O
product | 3-(4-Bromobutyl)-5-methyl-4-thiazolidinone | BrCCCCN1CSC(C1=O)C | C8H14BrNOS
